US04367237
A mixture of 2.4 g of PGE2 methyl ester, 30 ml of acetic anhydride and 6 ml of pyridine was stirred at 35° C. for 40 hours. After concentration under reduced pressure, the residue was dissolved in diethyl ether, washed with water, and a saturated aqueous solution of sodium chloride, dried over magnesium sulphate and concentrated under reduced pressure to give 2.56 g of (5Z,13E)-(15S)-9-oxo-15-acetoxyprosta-5,10,13-trienoic acid methyl ester having the following physical characteristic:

reactant | PGE2 methyl ester | 2.4 g | CCCCC[C@@H](/C=C/[C@H]1[C@@H](CC(=O)[C@@H]1C/C=C/CCCC(=O)OC)O)O | C21H34O5
reactant | acetic anhydride | 30 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 6 ml | N1=CC=CC=C1 | C5H5N
product | (5Z,13E)-(15S)-9-oxo-15-acetoxyprosta-5,10,13-trienoic acid methyl ester | 2.56 g | COC(CCC\C=C/C[C@H]1C(C=C[C@@H]1\C=C\[C@H](CCCCC)OC(C)=O)=O)=O | C23H34O5
